US04346248
The above objects have been achieved by the synthesis of 2,4,5-trichlorophenoxyacetic acid and its intermediate, 2,4,5-trichlorophenol, which are free from contamination with 2,3,7,8-tetrachloro-dibenzo-p-dioxin (TCDD). The synthesis involves the nitration of 1,2,4-trichlorobenzene to form 1,2,4-trichloro-5-nitrobenzene, which is reduced (usually with hydrogen) to produce 2,4,5-trichloroaniline. The 2,4,5-trichloroaniline is reacted with sulfuric acid and a nitrite to form 2,4,5-trichlorobenzenediazonium sulfate, which is reacted with water and distilled to produce 2,4,5-trichlorophenol which is analytically free of TCDD. The 2,4,5-trichlorophenol is reacted with monochloroacetic acid in the presence of aqueous base, followed by acidification, to produce 2,4,5-trichlorophenoxyacetic acid which also is analytically free of TCDD.

reactant | TCDD | ClC1=CC2=C(OC3=C(O2)C=C(C(=C3)Cl)Cl)C=C1Cl | C12H4Cl4O2
reactant | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
product | 2,4,5-trichlorophenoxyacetic acid | ClC1=C(OCC(=O)O)C=C(C(=C1)Cl)Cl | C8H5Cl3O3
